US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-methoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 101 mg of 4-methoxy-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 3.74 (s, 3H), 6.77 (d, 2H, J=8.8 Hz), 7.21 (m, 2H), 7.27 (d, 1H, J=2 Hz), 7.52 (dd, 1H, J=8.8 Hz, 2.8 Hz), 7.63 (m, 2H), 7.76 (d, 1H, J=8.8 Hz), 8.76 (d, 2H, J=5.6 Hz), 9.88 (s, 1H). MS: m/z 403.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-methoxy-benzenesulfonyl chloride | 101 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-methoxy-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC)C(=O)C1=CC=NC=C1 | C19H15ClN2O4S
